US09260413B2
To a suspension of ammonium chloride (10.7 g, 200 mmol) in 250 mL of dry toluene. was added a 2 M solution of Al(CH3) (100 mL, 200 mmol) in toluene dropwise under nitrogen at 0° C. The resulting reaction mixture was stirred at rt until no more evolution of gas was observed and then 2-chloropyridine -4-carbonitrile (13.86 g, 100 mmol) was added. The mixture was stirred at 90° C. overnight. It was then cooled down to 0° C. and 300 mL of methanol were added with subsequent stirring for 1 h at rt. After filtration, the solid was washed with methanol for several times, the solution was evaporated to dryness under vacuum. The residue was washed with methanol to give 2-chloropyridine-4-carboximidamide. (18.3 g, 95%). 1H NMR δ (400 MHz, d6-DMSO): 8.70 (dd, J=4.8, 0.4 Hz, 1H), 8.00 (dd, J=1.6, 0.4 Hz, 1H), 7.84 (dd, J=5.2, 1.6 Hz, 1H), 7.80 (m, 1H), 7.53 (t, J=8.1 Hz, 1H); MS (ESI) m/z (M+H)+ 156.

reactant | ammonium chloride | 200 mmol, 10.7 g | [Cl-].[NH4+]
reactant | 2-chloropyridine -4-carbonitrile | 100 mmol, 13.86 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | methanol | 300 mL | CO | CH4O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloropyridine-4-carboximidamide | ClC1=NC=CC(=C1)C(N)=N | C6H6ClN3
